US08877780B2
TEA (0.28 g, 2.8 mmol) was added to a mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) and 4-methoxyphenylisocyanate (0.21 g, 1.4 mmol) in acetonitrile (30 mL) at 0° C. The mixture was stirred at ambient temperature for 2 h and then 10% aqueous HCl solution (30 mL) was added. The solid precipitate was filtered and dried in vacuo providing 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-methoxy-phenyl)-urea as a white solid (0.48 g, 84% yield); mp 255-257° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 6.39 (99.34%); 1H NMR (DMSO-d6) δ 1.93-2.06 (m, 1H, CHH), 2.29-2.47 (m, 1H, CHH), 2.54-2.66 (m, 1H, CHH), 2.83-2.99 (m, 1H, CHH), 3.69 (s, 3H, CH3), 4.30 (d, 1H, CHH), 4.36-4.50 (m, 3H, CH2 and CHH), 5.11 (dd, 1H, CH), 6.65 (t, 1H, NH), 6.81 (d, J=8.9 Hz, 2H, Ar), 7.31 (d, 2H, Ar), 7.44 (d, 1H, Ar), 7.51 (s, 1H, Ar), 7.69 (d, 1H, Ar), 8.44 (s, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 8.60, 22.49, 31.20, 42.79, 45.69, 47.10, 51.56, 55.12, 113.86, 119.50, 121.85, 122.91, 126.88, 130.25, 133.50, 142.36, 145.03, 153.98, 155.45, 167.96, 170.99, 172.86; LCMS: MH=423; Anal. Calcd for C22H22N4O5+0.1H2O: C, 62.55; H, 5.25; N, 13.26. Found: C, 62.12; H, 5.36; N, 13.21.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-methoxyphenylisocyanate | 1.4 mmol, 0.21 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | HCl | 30 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-methoxy-phenyl)-urea | 0.48 g, 84% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC=C(C=C1)OC)=O)=O | C22H22N4O5
